US04767766
Step E: Preparation of 6-(1,1-dimethylethyl)-3-hydroxy-2-phenyl-7-azabenzo[b]thiophene
A solution of 2.72 g (10.0 mmol) of 3-methoxymethoxy-2-phenyl-7-azabenzothiophene in 20 mL of dry tetrahydrofuran was cooled to -78° C. To this was added 11 mL of a 1.0M solution of t-butyllithium in hexane and the solution was allowed to warm to room temperature. The solution was quenched with methanol and stirred in air for 60 minutes, then partitioned between ether and water. The aqueous layer was washed with two portions of ether and the combined extracts were washed with brine, dried, and concentrated to an oil. The oil was dissolved in 10 mL methanol and 10 mL of 2M HCl and stirred at room temperature for 24 hours. The solution was partitioned between ether and water and the ether layer dried and concentrated. Recrystallization from ether-hexane afforded 2.43 g (84%) of pale yellow needles, m.p. 181°-183° C.

reactant | 3-methoxymethoxy-2-phenyl-7-azabenzothiophene | 10.0 mmol, 2.72 g | COCOC1=C(SC2=C1C=CC=N2)C2=CC=CC=C2 | C15H13NO2S
reactant | t-butyllithium | C(C)(C)(C)[Li]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 6-(1,1-dimethylethyl)-3-hydroxy-2-phenyl-7-azabenzo[b]thiophene | 2.43 g, 84% | CC(C)(C)C=1C=CC2=C(SC(=C2O)C2=CC=CC=C2)N1 | C17H17NOS
